US05587486
3-methylthiophene-2-aldehyde phenylimine (50 g, 0.248 mol), methyl acrylate (224 ml, 2.48 mol) and diisopropyl ethylamine (173 ml, 0.993 mol) were mixed in xylene (1000 ml) and stirred under ice cooling. Methyl chloroformate (76.8 ml, 0.993 mol) was added to the mixture. After completing the addition, the reaction mixture was heated under reflux for 3 hours and then allowed to cool to room temperature. The reaction mixture was washed with an aqueous solution of sodium hydrogen carbonate and an aqueous solution of sodium chloride and dried over sodium sulfate. After distilling off the solvent, 83 g of crude N-methoxycarbonyl-N-phenyl-7-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-6-carboxylic acid methyl ester was obtained.

reactant | 3-methylthiophene-2-aldehyde phenylimine | 0.248 mol, 50 g | C1(=CC=CC=C1)N=CC=1SC=CC1C | C12H11NS
reactant | methyl acrylate | 2.48 mol, 224 ml | C(C=C)(=O)OC | C4H6O2
reactant | diisopropyl ethylamine | 0.993 mol, 173 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Methyl chloroformate | 0.993 mol, 76.8 ml | ClC(=O)OC | C2H3ClO2
solvent | xylene | 1000 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-methoxycarbonyl-N-phenyl-7-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-6-carboxylic acid methyl ester | 83 g | COC(=O)C1CCC2=C(SC=C2)C1N(C1=CC=CC=C1)C(=O)OC | C18H19NO4S
